US06835732B2
4-Chloromethyl-N-(4-hydroxy-7-morpholin-4-yl-benzothiazol-2-yl)-benzamide
N-(4-Benzyloxy-7-morpholin-4-yl-benzothiazol-2-yl)-4-chloromethyl-benzamide (1.0 g, 2.0 mmol) were dissolved in CH2Cl2 (10 ml) and treated at −78° C. with tetrabutyl ammonium iodide (0.95 g, 2.6 mmol) and a solution of boron trichloride in CH2Cl2 (1M, 7.4 ml). After subsequent warming to 0° and stirring for additional 2 h, ice (2 g) and then water (10 ml) and methanol (2 ml) were added and the phases separated. The aqueous phases were extracted twice with CH2Cl2/MeOH, the combined organic layers were dried with Na2SO4 and evaporated to dryness. Recrystallization from CH2Cl2/MeOH afforded the title compound as an off-white solid (18%). MS: m/e=403 ([M−H+]−).

reactant | N-(4-Benzyloxy-7-morpholin-4-yl-benzothiazol-2-yl)-4-chloromethyl-benzamide | 2.0 mmol, 1.0 g | C(C1=CC=CC=C1)OC1=CC=C(C2=C1N=C(S2)NC(C2=CC=C(C=C2)CCl)=O)N2CCOCC2 | C26H24ClN3O3S
reactant | boron trichloride | B(Cl)(Cl)Cl | BCl3
reactant | water | 10 ml | O | H2O
reactant | methanol | 2 ml | CO | CH4O
solvent | CH2Cl2 | 10 ml | C(Cl)Cl | CH2Cl2
catalyst | tetrabutyl ammonium iodide | 2.6 mmol, 0.95 g | [I-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | CH2Cl2 | 1M, 7.4 ml | C(Cl)Cl | CH2Cl2
product | 4-Chloromethyl-N-(4-hydroxy-7-morpholin-4-yl-benzothiazol-2-yl)-benzamide | 18% | ClCC1=CC=C(C(=O)NC=2SC3=C(N2)C(=CC=C3N3CCOCC3)O)C=C1 | C19H18ClN3O3S
